US05108485
Preparation of 1,2-Dimethyl-5,6-benzimidazoledicarboxylic acid
A mixture of dimethyl 1,2-dimethyl-5,6-benzimidazoledicarboxylate (2.80 g, 10.7 mmol), potassium hydroxide (1.49 g, 26.7 mmol), water and methanol is stirred at room temperature for 16 hours and then concentrated in vacuo. The resultant residue is taken up in a minimal amount of water, cooled, acidified to pH 3 with hydrochloric acid and filtered to give the title product as pink crystals (2.28 g, 91.2%), mp 308°-312° C.

reactant | dimethyl 1,2-dimethyl-5,6-benzimidazoledicarboxylate | 10.7 mmol, 2.80 g | CN1C(=NC2=C1C=C(C(=C2)C(=O)OC)C(=O)OC)C | C13H14N2O4
reactant | potassium hydroxide | 26.7 mmol, 1.49 g | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 1,2-Dimethyl-5,6-benzimidazoledicarboxylic acid | 2.28 g, 91.2% | CN1C(=NC2=C1C=C(C(=C2)C(=O)O)C(=O)O)C | C11H10N2O4
